US08383932B2
Synthesis of 3-(2H-tetrazol-5-yl)pyridine
30 g (288 mmol) of 3-pyridinecarbonitrile, 28.1 g (432 mmol) of sodium azide (NaN3), and 23.1 g (432 mmol) of ammonium chloride were dissolved in 200 mL of DMF. The solution was reacted at 100° C. for 24 hours. Then, water was added to the acquired reactant. The resulting product was neutralized with hydrochloric acid and then filtered, obtaining 19.6 g (Y=46%) of a white solid.

reactant | 3-pyridinecarbonitrile | 288 mmol, 30 g | N1=CC(=CC=C1)C#N | C6H4N2
reactant | sodium azide | 432 mmol, 28.1 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 432 mmol, 23.1 g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(2H-tetrazol-5-yl)pyridine | N=1NN=NC1C=1C=NC=CC1 | C6H5N5
